US04748171
t-Butyl 7β-amino-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate 1-oxide bromide
t-Butyl 7β-amino-3-bromomethyl-3-cephem-4-carboxylate 1-oxide hydrobromide (600 mg) was dissolved in N,N-dimethylformamide (6 ml), and 4-carbamoylquinuclidine (456 mg) was added thereto, and the mixture was stirred in argon gas stream at room temperature for 14 hours. To the reaction solution was added diethyl ether (120 ml), the resulting precipitate was filtered and washed with n-hexane, whereby the desired product (580 mg) was obtained.

reactant | t-Butyl 7β-amino-3-bromomethyl-3-cephem-4-carboxylate 1-oxide hydrobromide | 600 mg | Br.N[C@H]1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC(C)(C)C)C1=O
reactant | 4-carbamoylquinuclidine | 456 mg | C(N)(=O)C12CCN(CC1)CC2 | C8H14N2O
reactant | diethyl ether | 120 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | t-Butyl 7β-amino-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate 1-oxide bromide | [Br-].N[C@H]1[C@@H]2N(C(=C(CS2=O)C[N+]23CCC(CC2)(CC3)C(N)=O)C(=O)OC(C)(C)C)C1=O | InChI=1S/C20H30N4O5S.BrH/c1-19(2,3)29-17(26)14-12(11-30(28)16-13(21)15(25)23(14)16)10-24-7-4-20(5-8-24,6-9-24)18(22)27;/h13,16H,4-11,21H2,1-3H3,(H-,22,27);1H/t13-,16-,20?,24?,30?;/m1./s1
